US07423030B2
53.2 N-{4-[(4-{[7-Methoxy-4-(4-methoxyphenyl)phthalazin-1-yl]amino}piperidin-1-yl)methyl]phenyl}carboxamide dihydrochloride
0.29 mL (2.3 mmol) of N-ethylmorpholine is added to a stirred suspension of 400 mg (0.7 mmol) of {4-[(4-{[7-methoxy-4-(4-methoxyphenyl)phthalazin-1-yl]amino}piperidin-1-yl)methyl]phenyl}carboxylic acid (dihydrochloride) in 10 mL of tetrahydrofuran at 0° C., followed by dropwise addition of 0.074 mL (0.77 mmol) of ethyl chloroformate. The mixture is stirred for 1 hour at 0° C., and 0.6 mL (3.5 mmol) of a 20% aqueous ammonia solution is then added slowly. The reaction medium is stirred for 20 hours at room temperature and is then concentrated under reduced pressure. 1N sodium hydroxide is added to the residue and the mixture is then extracted with dichloromethane. The organic phase is washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then evaporated under reduced pressure. The residue is purified on a column of silica (eluent: 85/15 (v/v) dichloromethane/methanol). 150 mg of a colourless oil are obtained.

reactant | N-ethylmorpholine | 2.3 mmol, 0.29 mL | C(C)N1CCOCC1 | C6H13NO
reactant | {4-[(4-{[7-methoxy-4-(4-methoxyphenyl)phthalazin-1-yl]amino}piperidin-1-yl)methyl]phenyl}carboxylic acid | 0.7 mmol, 400 mg | COC1=CC=C2C(=NN=C(C2=C1)NC1CCN(CC1)CC1=CC=C(C=C1)C(=O)O)C1=CC=C(C=C1)OC | C29H30N4O4
reactant | ethyl chloroformate | 0.77 mmol, 0.074 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-{4-[(4-{[7-Methoxy-4-(4-methoxyphenyl)phthalazin-1-yl]amino}piperidin-1-yl)methyl]phenyl}carboxamide dihydrochloride | 150 mg | Cl.Cl.COC1=CC=C2C(=NN=C(C2=C1)NC1CCN(CC1)CC1=CC=C(C=C1)NC=O)C1=CC=C(C=C1)OC | InChI=1S/C29H31N5O3.2ClH/c1-36-24-9-5-21(6-10-24)28-26-12-11-25(37-2)17-27(26)29(33-32-28)31-23-13-15-34(16-14-23)18-20-3-7-22(8-4-20)30-19-35;;/h3-12,17,19,23H,13-16,18H2,1-2H3,(H,30,35)(H,31,33);2*1H
